US04659832
A solution was prepared by dissolving 1.95 g. of trans-(±)-1-n-propyl-6-oxodecahydroquinoline in 25 ml. of glacial acetic acid. Two and three tenths milliliters of 37% (by weight) hydrogen bromide in glacial acetic acid were added followed by the dropwise addition of 0.6 ml. of bromine dissolved in 5 ml. of glacial acetic acid. The reaction mixture was stirred for one-half hour after all the reactants had been added. Volatile constituents were then removed in vacuo yielding, as a residue, trans-(±)-1-n-propyl-6-oxo-7-bromodecahydroquinoline hydrobromide. Ten millimoles of this salt were dissolved in 10 ml. of methanol. One and two-tenths grams of urea were added thereto. The resulting mixture was refluxed for about 24 hours under a nitrogen blanket. The reaction mixture was cooled to about room temperature, and the solvent removed in vacuo. The residue was dissolved in water, and the aqueous solution made basic by the addition of 14N aqueous ammonium hydroxide. The alkaline layer was extracted several times with an equal volume of methylene dichloride. The organic extracts were combined, and the combined extracts washed with saturated aqueous sodium chloride and then dried. Removal of the solvent in vacuo yielded a brown viscous oil comprising trans-(±)-2-amino-5-n-propyl-4,4a,5,6,7,8,8a,9-octahydro-oxazolo[4,5-g]quinoline formed in the above reaction. The residue was dissolved in chloroform containing 5% methanol and a trace of ammonium hydroxide and chromatographed over silica gel (eluant was CHCl3 containing 5% methanol and a trace of ammonium hydroxide). Fractions containing the desired oxazoloquinoline were combined to yield, after evaporation of the solvent, a yellow viscous oil which slowly crystallized. The crystalline solid, trans-(±)-2-amino-5-n-propyl-4,4a,5,6,7,8,8a,9-octahydro-oxazolo[4,5-g]quinoline, was dissolved in methanol and the methanolic solution saturated with gaseous HCl. The solvent was removed and the residue recrystallized from ethanol. Two-tenths grams of trans-(±)-2-amino-5-n-propyl-4,4a,5,6,7,8,8a,9-octahydro-oxazolo[4,5-g]quinoline dihydrochloride were obtained melting above 225° C.; molecular ion at 235 by mass spectrum.

reactant | trans-(±)-1-n-propyl-6-oxodecahydroquinoline | C(CC)N1CCC[C@@H]2CC(CC[C@@H]12)=O | C12H21NO
reactant | hydrogen bromide | Br | BrH
reactant | bromine | BrBr | Br2
reactant | urea | NC(=O)N | CH4N2O
reactant | trans-(±)-2-amino-5-n-propyl-4,4a,5,6,7,8,8a,9-octahydro-oxazolo[4,5-g]quinoline | NC=1OC2=C(C[C@@H]3CCCN([C@H]3C2)CCC)N1 | C13H21N3O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | trans-(±)-2-amino-5-n-propyl-4,4a,5,6,7,8,8a,9-octahydro-oxazolo[4,5-g]quinoline dihydrochloride | Cl.Cl.NC=1OC2=C(C[C@@H]3CCCN([C@H]3C2)CCC)N1 | InChI=1S/C13H21N3O.2ClH/c1-2-5-16-6-3-4-9-7-10-12(8-11(9)16)17-13(14)15-10;;/h9,11H,2-8H2,1H3,(H2,14,15);2*1H/t9-,11-;;/m0../s1
